* ============================================================================
* LA-2A Leveling Amplifier — T4B opto cell (EL panel + CdS LDR), ngspice ref
* PedalKernel Validation Circuit (bead pedalkernel-mbte.4)
* ============================================================================
* Mirrors examples/outboard/compressor/la2a.pedal:
*   in -> T_in(1:1) -> C_in -> R_gr(100k series) -> [PC1 T4B CdS shunt + V1.grid]
*      -> 12AX7 makeup (V1) -> Gain pot -> 12AX7 (V2) -> 12BH7 CF (V3)
*      -> T_out(4:1 step-down) -> 600R line -> out
*   Sidechain (FEEDBACK): out -> C_sc -> R37/C37 pre-emph -> Peak-Reduction pot
*      -> 12AX7 (V4) -> 6AQ5 pentode (V5) -> EL_drive xfmr -> PC1.led (EL panel).
*
* The defining LA-2A nonlinearity is the T4B opto cell: the CdS LDR is the SHUNT
* arm of the input divider, and its resistance lags the EL-panel drive with a
* TWO-RATE (fast+slow), asymmetric (attack != release) memory. This deck models
* that cell with the EXACT engine T4B parameters (pedalkernel-rt PhotocouplerModel
* ::t4b): R_dark=3MO, R_light=500R, gamma=0.65, fast tau 10ms/40ms, slow tau
* 100ms/500ms, slow_weight=0.5, R = R_dark^(1-x)*R_light^x with x=light^gamma.
* The 5 tubes (3 makeup + 2 sidechain) are collapsed to behavioral net gain +
* a feedback rectifier: the opto cell, not tube THD, governs the DYNAMICS this
* harness validates. An agent may swap real Koren triode/pentode models for V1-V5
* if the stiffer deck still converges (see campaign convergence recipe).
*
* VERIFIED (orchestrator, 2026-06-15, ngspice direct, NO bootstrap):
*   - CONVERGES (behavioral makeup + T4B two-rate opto + feedback detector loop).
*   - COMPRESSES (steady-state, 1s tone, meas PP over 0.9-1.0s):
*       in=0.05 -> gain 43.0x (out 4.30 Vpp), R_ldr=131k
*       in=0.50 -> gain  9.84x (out 9.82 Vpp), R_ldr=14.2k
*     +20 dB input -> +7.2 dB output  ==  ~2.8:1 ratio, -12.8 dB GR. Realistic
*     opto-leveler curve (program-dependent, gentle — NOT a hard limiter).
*   - Settling needs ~1s of tone (slow tau 500ms); measure a steady-state tail,
*     NOT peak-over-window (the uncompressed attack transient inflates it).
*
* HARNESS: strip the standalone Vin SINE + .control; inject the harness stimulus
* at `in`, read V(out). Use a >=1s settle (or the dynamics harness attack/release
* measurement) before reading gain. GMK/PRG below are the makeup/sidechain-sens
* calibration knobs the validation agent tunes to the engine + LA-2A datasheet.
* ----------------------------------------------------------------------------

.param GMK=80           $ net makeup gain (3 triodes * Gain@0.6 / 4:1 step-down)
.param PRG=0.12         $ sidechain sensitivity (12AX7+6AQ5 gain * Peak Reduction@0.5)

* T4B LDR resistance: ln(3e6)=14.9141, ln(500)=6.2146, diff=-8.6995, gamma=0.65
.func rldr(L) = exp(14.9141 - 8.6995*pwr(min(max(L,1e-9),1),0.65))

* --- audio path: C_in -> R_gr(100k) series ; PC1(T4B) + R_g1(1M) shunt at grid ---
C_in v_in nci 100n
R_gr nci ndiv 100k
R_gl ndiv 0 1meg                 $ R_g1 grid leak
B_pc ndiv 0 I = V(ndiv)/V(nrldr) $ PC1 CdS cell as voltage-controlled shunt R
* makeup (V1 12AX7 -> Gain pot -> V2 12AX7 -> V3 12BH7 CF -> T_out 4:1), behavioral
B_mk nmk 0 V = GMK*V(ndiv)
C_out nmk v_out 10u              $ C_c3 CF output coupling
R_load v_out 0 600               $ 600R line termination

* --- T4B opto cell: EL-panel drive -> two-rate asymmetric envelope -> CdS R ---
* LED drive (FEEDBACK): rectified output * sidechain/Peak-Reduction sens, clamp 0..1
B_led nled 0 V = min(1, PRG*abs(V(v_out)))
* fast component: rise 10ms / fall 40ms  (C=1F integrator, dV/dt=(target-V)/tau)
B_fast 0 nfast I = (V(nled)-V(nfast)) / ((V(nled)>V(nfast)) ? 10m : 40m)
C_fast nfast 0 1 ic=0
* slow component: rise 100ms / fall 500ms (the LA-2A "release memory")
B_slow 0 nslow I = (V(nled)-V(nslow)) / ((V(nled)>V(nslow)) ? 100m : 500m)
C_slow nslow 0 1 ic=0
* effective light = 0.5*fast + 0.5*slow ; R_ldr = log-interp gamma curve
B_light nlight 0 V = 0.5*V(nfast) + 0.5*V(nslow)
B_rldr nrldr 0 V = rldr(V(nlight))

* --- standalone Vin + .control stripped; harness injects at v_in, reads V(v_out) ---
* NOTE: la2a has slow T4B opto tau (500ms) — needs >=1s settle before steady-state.
* The harness LevelSweep + ToneBurst stimuli are sufficiently long; WDF comparison
* is pending until the engine LA-2A opto cell is wired (kyem.1).
.options DELMAX=50e-6
.end
