* ============================================================================
* Opto Leveler (generic LA-2A-style) — T4B opto cell, ngspice reference
* PedalKernel Validation Circuit (bead pedalkernel-mbte.5)
* ============================================================================
* Mirrors examples/outboard/compressor/opto_leveler.pedal — the SIMPLER opto
* leveler (single 12AX7 gain stage), DISTINCT from the faithful la2a.spice
* (which has 5 tubes + transformers + a sidechain amp).
*   in -> C_in -> R_gr(100k series) -> [PC1 T4B CdS shunt + Gain pot + V1.grid]
*      -> 12AX7 common-cathode gain -> C_out -> R_load -> out
*   Sidechain FEED-FORWARD: EF(10k/1u attack=10ms, 470k/4.7u release=2.2s) -> PC1.led
* T4B opto cell uses the EXACT engine PhotocouplerModel::t4b params
* (R_dark=3M, R_light=500, gamma=0.65, log-interp R). The 12AX7 stage is a
* behavioral net gain (the opto cell, not tube THD, governs the dynamics here).
*
* VERIFIED (orchestrator, 2026-06-16, ngspice direct, NO bootstrap):
*   - CONVERGES. COMPRESSES (steady-state tail, 4 s settle for the 2.2 s release):
*       in=0.05 -> gain 22.4x ;  in=0.5 -> gain 5.28x
*     +20 dB input -> +7.4 dB output  ==  ~2.7:1 ratio, ~-12.6 dB GR. Realistic
*     opto-leveler curve, consistent with the faithful la2a deck (~2.8:1).
*   - Settling needs ~4 s (EF release tau 2.2 s); measure a steady-state tail,
*     NOT peak-over-window (the uncompressed attack transient inflates it).
*
* HARNESS (phase 2): strip the standalone Vin SINE + .control; inject stimulus
* at `in`, read V(out), allow >=4 s settle. GMK/PRG are the makeup/sidechain-sens
* calibration knobs to tune to the engine + datasheet.
* ----------------------------------------------------------------------------
.param GMK=40           $ 12AX7 common-cathode net gain (behavioral)
.param PRG=0.18         $ sidechain sensitivity (EF -> LED)
* T4B LDR: ln(3e6)=14.9141, ln(500)=6.2146, diff=-8.6995, gamma=0.65
.func rldr(L) = exp(14.9141 - 8.6995*pwr(min(max(L,1e-9),1),0.65))

C_in v_in nci 100n
R_gr nci ndiv 100k
R_gl ndiv 0 1meg                 $ R_grid grid leak (Gain pot 1M to grid)
B_pc ndiv 0 I = V(ndiv)/V(nrldr) $ PC1 CdS cell as voltage-controlled shunt R
B_mk nmk 0 V = GMK*V(ndiv)       $ 12AX7 common-cathode gain stage (behavioral)
C_out nmk v_out 22n
R_load v_out 0 100k

* FEED-FORWARD detector EF1(10k,1u,470k,4.7u,20k): attack 10ms, release 2.2s
B_led nled 0 V = min(1, PRG*abs(V(v_out)))
B_env 0 nenv I = (V(nled)-V(nenv)) / ((V(nled)>V(nenv)) ? 10m : 2200m)
C_env nenv 0 1 ic=0
B_rldr nrldr 0 V = rldr(V(nenv))

* --- standalone Vin + .control stripped; harness injects at v_in, reads V(v_out) ---
* NOTE: opto_leveler has slow EF release tau (2.2s) — needs >=4s settle.
* Pass criteria are placeholders; reconcile with kyem.1's honest values when it lands.
.options DELMAX=50e-6
.end
