* ============================================================================
* VCA Bus Comp (SSL/dbx-style) — SSM2164 exponential VCA, ngspice reference
* PedalKernel Validation Circuit (bead pedalkernel-mbte.2)
* ============================================================================
* Mirrors examples/outboard/compressor/vca_bus_comp.pedal:
*   in -> C_in -> U1 (NE5532 gain 2) -> R_v2v -> VCA1 (SSM2164) -> C_mid
*      -> U2 (NE5532 gain 2) -> C_out -> Makeup -> out
*   Sidechain: EF1 envelope_follower(10k,1u,91k,6.8u,20k) FEED-FORWARD -> VCA1.cv
* The SSM2164 is an IC exponential VCA; modeled behaviorally (standard approach):
*   gain(dB) = -CV / 33mV  ->  gain = 10^(-CV/0.66).
*
* *** DSPBlock-vs-analog comparison (owner's interest) ***
* The ENGINE lowers `vca(ssm2164)` to a processor binding via the compiler
* vca_lowering pass (G4) — i.e. the engine VCA is an ALGORITHMIC/DSPBlock gain,
* NOT a stamped circuit. This ngspice deck is the ANALOG SSM2164 reference, so
* the WDF-vs-ngspice comparison directly tests how the DSPBlock abstraction
* matches the real exponential VCA behavior.
*
* VERIFIED (orchestrator, 2026-06-15, ngspice direct, NO bootstrap):
*   - CONVERGES (behavioral VCA + 2 opamp gain stages + feed-forward detector).
*   - COMPRESSES: gain 4.02x@in=0.05 -> 3.51x@in=0.5 (~1.18 dB GR). Conservative
*     sens (B_cv 0.25) — agent tunes to the real SSM2164 dB/V + envelope_follower
*     for a musical ratio. Direction + physics correct. The detector needs a
*     pre-rectifier sens gain (x20) or the ~0.6V diode drop swamps small signals.
*
* HARNESS: strip the standalone Vin SINE + .control; inject PWL at `in`, read out.
* ----------------------------------------------------------------------------

.model Ddet D(IS=1e-14)
V_vcc vcc 0 15

C_in v_in n1 1u
* U1 NE5532 non-inverting gain 2 (ideal opamp behavioral)
B_u1 nu1 0 V = 2*V(n1)
R_v2v nu1 nvin 30k
* SSM2164 exponential VCA: gain = 10^(-CV/0.66)
B_vca nvout 0 V = V(nvin) * pwr(10, -V(ncv)/0.66)
C_mid nvout nm 1u
* U2 NE5532 gain 2
B_u2 nu2 0 V = 2*V(nm)
C_out nu2 v_out 1u
R_mk v_out 0 10k

* feed-forward detector: sens gain x20 -> rectify -> attack 10k/1u, release 91k/6.8u
B_rect nrect 0 V = abs(V(n1))*20
R_att nrect na 10k
D_att na nenv Ddet
C_env nenv 0 1u ic=0
R_rel nenv 0 91k
B_cv ncv 0 V = 0.25*V(nenv)

* --- standalone Vin + .control stripped; harness injects at v_in, reads V(v_out) ---
.OPTIONS DELMAX=100e-6
.end
